US04444584
Ethyl 2-[4-(6-fluoroquinolin-2-yloxy)phenoxy]-propionate (34)
was prepared from 2-chloro-6-fluoroquinoline and ethyl 2-(4-hydroxyphenoxy)propionate following essentially the same procedure as that described in Example 1. The compound was isolated as a pale yellow oil. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 8.1-6.8 (9H, m, quinoline and phenyl protons); 4.8 (1H, q, CH-CH3); 4.3 (2H, q, OCH2 -CH3); 1.6 (3H, d, CH-CH3); 1.2 (3H, t, OCH2 -CH3).

reactant | 2-chloro-6-fluoroquinoline | ClC1=NC2=CC=C(C=C2C=C1)F | C9H5ClFN
reactant | ethyl 2-(4-hydroxyphenoxy)propionate | OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C11H14O4
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
product | Ethyl 2-[4-(6-fluoroquinolin-2-yloxy)phenoxy]-propionate | FC=1C=C2C=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H18FNO4
